US04409017
A mixture of ethyl 2-{4-[N-(7-chloro-1-hydroxyisoquinolin-3-yl)-N-methylamino]phenoxy}propionate (1.00 g) and phosphorus oxybromide was heated at 120° C. for 10 mins. The mixture was cooled, poured into ice-water and extracted with dichloromethane, which was dried (MgSO4) and evaporated to give an oil. Purification by column chromatography over silica gel (eluant dichloromethane) gave ethyl 2-{4-[N-(1-bromo-7-chloroisoquinolin-3-yl)-N-methylamino]phenoxy}propionate (0.83 g) as a yellow oil.

reactant | ethyl 2-{4-[N-(7-chloro-1-hydroxyisoquinolin-3-yl)-N-methylamino]phenoxy}propionate | 1.00 g | ClC1=CC=C2C=C(N=C(C2=C1)O)N(C)C1=CC=C(OC(C(=O)OCC)C)C=C1 | C21H21ClN2O4
reactant | phosphorus oxybromide | P(=O)(Br)(Br)Br | Br3OP
product | ethyl 2-{4-[N-(1-bromo-7-chloroisoquinolin-3-yl)-N-methylamino]phenoxy}propionate | 0.83 g | BrC1=NC(=CC2=CC=C(C=C12)Cl)N(C)C1=CC=C(OC(C(=O)OCC)C)C=C1 | C21H20BrClN2O3
